US04980495
The preparation of 2-amino-4-chloro-3-cyano-5-formylthiophene is known from EP-A-No. 193 885, according to which the intermediate triethylamine salt of 3-chloro-1,1-dicyano-2-hydroxy-1-propene is prepared from malononitrile, chloroacetyl chloride, and triethylamine and cyclized with ammonium sulfide to 2-amino-3-cyano-4-hydroxythiophene, which is then treated with a mixture of N,N-dimethylformamide and phosphoryl chloride; the N'-(4-chloro-3-cyano-5-formyl-2-thienyl)-N,N-dimethylformamidine that is formed is isolated and then hydrolyzed with formic acid, giving the required product. However, it has been found that the yield of 2-amino-4-chloro-3-cyano-5-formylthiophene obtained by this process is unsatisfactory.

reactant | 2-amino-4-chloro-3-cyano-5-formylthiophene | NC=1SC(=C(C1C#N)Cl)C=O | C6H3ClN2OS
reactant | 3-chloro-1,1-dicyano-2-hydroxy-1-propene | ClCC(=C(C#N)C#N)O | C5H3ClN2O
reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | ammonium sulfide | [NH4+]=S
reactant | 2-amino-3-cyano-4-hydroxythiophene | NC=1SC=C(C1C#N)O | C5H4N2OS
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N'-(4-chloro-3-cyano-5-formyl-2-thienyl)-N,N-dimethylformamidine | ClC=1C(=C(SC1C=O)N=CN(C)C)C#N | C9H8ClN3OS
